US04237133
6,8-Dihydroxy-1-tetralone
The 6,8-dimethoxy-1-tetralone (3.0 g; 14.0 mmoles) was refluxed overnight with 20 ml of 48% aqueous hydrogen bromide and 20 ml of glacial acetic acid. After cooling to room temperature, the reaction mixture was neutralized with a saturated sodium bicarbonate solution and extracted with ethyl acetate. The combined extracts were dried (brine, magnesium sulfate) and concentrated to afford a red solid which upon trituration with ether gave the desired compound as an off-white solid, 1.77 g (71%); m.p. 209°-210° C.

reactant | 6,8-dimethoxy-1-tetralone | 14.0 mmoles, 3.0 g | COC=1C=C2CCCC(C2=C(C1)OC)=O | C12H14O3
reactant | hydrogen bromide | 20 ml | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6,8-Dihydroxy-1-tetralone | OC=1C=C2CCCC(C2=C(C1)O)=O | C10H10O3
